US08067457B2
rel-N-{2-[((3R,4R)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}-4-propoxypyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide (100)
To a solution of rel-N-{2-[((3R,4R)-4-(allyloxy)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide in methanol (400 μL) was added and palladium (10%) on carbon (50 mg) was added and purged with hydrogen gas for two minutes; the reaction was then subjected to 1 atmosphere of hydrogen gas overnight. The flask was purged with argon; the mixture was filtered, then purified by preparative HPLC to afford the title compound as a white solid. 1H-NMR (CDCl3) δ: 0.82 (t, J=7.8 Hz, 3H), 1.43-1.53 (m, 2H), 1.59-1.68 (m, 1H), 1.89-1.93 (m, 2H), 2.46-2.51 (m, 2H), 2.73 (t, J=11.4 Hz, 2H), 2.85-2.96 (m, 2H), 3.10-3.20 (m, 2H), 3.29-3.36 (m, 2H), 3.41-3.69 (m, 10H), 3.79 (b, 1H), 4.05 (d, J=4.5 Hz 2H), 4.29-4.33 (%, 1 μl), 6.79 (d, J=8.7 Hz, 2H), 7.25 (d, J=9.0 Hz, 2H), 7.43-7.49 (m, 1H), 7.67 (d, J=8.4 Hz, 1H), 7.97 (d, J=7.5 Hz, 1H), 8.07 (s, 1H). MS m/z: 646 (M+1).

reactant | rel-N-{2-[((3R,4R)-4-(allyloxy)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}pyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCN(CC1)C1=CC=C(C=C1)C(=O)N1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C33H40F3N5O5
solvent | methanol | 400 μL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | rel-N-{2-[((3R,4R)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}-4-propoxypyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1CCC(CC1)N1C[C@H]([C@@H](C1)OCCC)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C33H42F3N5O5
